US04140719
hydrogenating the 2,4-difluoro-5-chloronitrobenzene with hydrogen in the presence of a hydrogenation catalyst to form 2,4-difluoroaniline.

reactant | 2,4-difluoro-5-chloronitrobenzene | FC1=C(C=C(C(=C1)F)Cl)[N+](=O)[O-] | C6H2ClF2NO2
reactant | hydrogen | [H][H] | H2
product | 2,4-difluoroaniline | FC1=C(N)C=CC(=C1)F | C6H5F2N
